US07112593B2
c) 2-Benzyl-3-iodo-6-[(3R,4S)-3-hydroxy-4-methoxypyrrolidin-1-yl]pyridine
To a mixture of 7.5 g of 2-benzyl-3-iodo-6-[(3R,4S)-3-acetoxy-4-methoxypyrrolidin-1-yl]pyridine and 30 ml of methanol was added 0.33 ml of 28% methanol solution of sodium methoxide and the resultant mixture was stirred under nitrogen atmosphere at room temperature for 30 minutes. Water was added to the reaction mixture, which was extracted with ethyl acetate. The organic layer was washed with brine, dried over anhydrous magnesium sulfate and concentrated. The residue was purified by silica gel column chromatography (20–50% ethyl acetate/hexane), to give 6.7 g of the title compound.

reactant | 2-benzyl-3-iodo-6-[(3R,4S)-3-acetoxy-4-methoxypyrrolidin-1-yl]pyridine | 7.5 g | C(C1=CC=CC=C1)C1=NC(=CC=C1I)N1C[C@H]([C@H](C1)OC)OC(C)=O | C19H21IN2O3
reactant | methanol | 30 ml | CO | CH4O
reactant | methanol | 0.33 ml | CO | CH4O
reactant | sodium methoxide | C[O-].[Na+]
solvent | Water | O | H2O
product | 2-Benzyl-3-iodo-6-[(3R,4S)-3-hydroxy-4-methoxypyrrolidin-1-yl]pyridine | 6.7 g | C(C1=CC=CC=C1)C1=NC(=CC=C1I)N1C[C@H]([C@H](C1)OC)O | C17H19IN2O2
